### PR TITLE
ssralg and poly parts of CohenCyril's abel backport

### PR DESCRIPTION
**Pull request by Tragicus**
##### Motivation for this change

Extracts the part from https://github.com/math-comp/math-comp/pull/944 that concern ssralg.v and poly.v.
Relies on https://github.com/math-comp/math-comp/pull/1184

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- ~~[ ] added corresponding documentation in the headers~~
- [x] tried to abide by the [contribution guide](https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md)

##### Compatibility with MathComp 1.X

- [ ] I added the label `TODO: MC-1 port` to make sure someone ports this PR to
      the `mathcomp-1` branch **or** I already opened an issue or PR (please cross reference).

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) and put a milestone if possible.

### CODE REVIEW

**Comment by proux01** [comment]
Another nitpicking: the `Co-authored-by` line should not be in the title of the commit.

**Comment by CohenCyril** [comment]
> Another nitpicking: the `Co-authored-by` line should not be in the title of the commit.

:smile: yes the syntax for commit messages is to have a first line interpreted as the title and then a blank line followed by the commit message body.

File: mathcomp/algebra/poly.v [hunk 1]
```diff
@@ -1776,6 +1832,43 @@ Arguments polyOverP {R S p}.
...
+rewrite Frobenius_autE expf_eq0// prime_gt0//= subr_eq0 => /eqP.
+move=> /eqP; rewrite -(prim_order_dvd prim_z) n_eq_kp.
+rewrite -[X in _ %| X]muln1 dvdn_pmul2l ?dvdn1// => /eqP peq1.
+by rewrite peq1 in p_prime.
+Qed.
+
+Lemma char_prim_root : [char R]^'.-nat n.
+Proof. by apply/pnatP=> // p pp pn; rewrite inE/= prim_root_charF. Qed.
+
+Lemma prim_root_pi_eq0 m : \pi(n).-nat m -> m%:R != 0 :> R.
```
Comment (proux01) [inline mathcomp/algebra/poly.v:1856]: Due to the definition of `pnat` that seems to be true for any predicate, not just `\pi(n)`?

File: mathcomp/algebra/poly.v [hunk 2]
```diff
@@ -1776,6 +1832,43 @@ Arguments polyOverP {R S p}.
...
+by rewrite natf_neq0; apply: sub_in_pnat => p _; apply: pnatPpi char_prim_root.
+Qed.
+
+Lemma prim_root_dvd_eq0 m : (m %| n)%N -> m%:R != 0 :> R.
+Proof.
+case: m => [|m mn]; first by rewrite dvd0n gtn_eqF.
+by rewrite prim_root_pi_eq0 ?(sub_in_pnat (in1W (pi_of_dvd mn _))) ?pnat_pi.
+Qed.
+
+Lemma prim_root_natf_eq0 : n%:R != 0 :> R.
```
Comment (proux01) [inline mathcomp/algebra/poly.v:1867]: neq0?

File: mathcomp/algebra/poly.v [hunk 3]
```diff
@@ -1811,9 +1904,6 @@ Local Notation "p ^f" := (map_poly f p) : ring_scope.
 Lemma map_poly0 : 0^f = 0.
 Proof. by rewrite map_polyE polyseq0. Qed.
 
-Lemma eq_map_poly (g : aR -> rR) : f =1 g -> map_poly f =1 map_poly g.
-Proof. by move=> eq_fg p; rewrite !map_polyE (eq_map eq_fg). Qed.
```
Comment (proux01) [inline mathcomp/algebra/poly.v:1815]: Why move this?

File: mathcomp/algebra/poly.v [hunk 4]
```diff
@@ -1871,6 +1964,20 @@ Proof.
 by move=> gK f_0 p; rewrite /= -map_poly_comp_id0 ?map_poly_id // => x _ //=.
 Qed.
 
+Lemma eq_in_map_poly_id0 (f g : aR -> rR)
+  (S : addrClosed aR) :
+  f 0 = 0 -> g 0 = 0 ->
+  {in S, f =1 g} -> {in polyOver S, map_poly f =1 map_poly g}.
```
Comment (proux01) [inline mathcomp/algebra/poly.v:1970]:
```Coq
Lemma eq_in_map_poly_id0 (f g : aR -> rR) (S : addrClosed aR) :
    f 0 = 0 -> g 0 = 0 -> {in S, f =1 g} ->
  {in polyOver S, map_poly f =1 map_poly g}.
```

File: mathcomp/algebra/poly.v [hunk 5]
```diff
@@ -1871,6 +1964,20 @@ Proof.
...
+Proof.
+move=> f0 g0 eq_fg p pP; apply/polyP => i.
+by rewrite !coef_map_id0// eq_fg// (polyOverP _).
+Qed.
+
+Lemma eq_in_map_poly (f g : {additive aR -> rR})
+  (S : addrClosed aR) :
+  {in S, f =1 g} -> {in polyOver S, map_poly f =1 map_poly g}.
```
Comment (proux01) [inline mathcomp/algebra/poly.v:1978]:
```Coq
Lemma eq_in_map_poly (f g : {additive aR -> rR}) (S : addrClosed aR) :
  {in S, f =1 g} -> {in polyOver S, map_poly f =1 map_poly g}.
```

File: mathcomp/algebra/ssralg.v [hunk 6]
```diff
@@ -954,6 +954,8 @@ Local Notation "\prod_ ( m <= i < n ) F" := (\big[*%R/1%R]_(m <= i < n) F%R).
 Definition char (R : semiRingType) : nat_pred :=
   [pred p | prime p & p%:R == 0 :> R].
 
+Notation has_char0 L := (char L =i pred0).
+
```
Comment (proux01) [inline mathcomp/algebra/ssralg.v:958]: Looks both unused and not exported, so I guess it can be removed.

File: mathcomp/algebra/ssralg.v [hunk 7]
```diff
@@ -1146,6 +1148,26 @@ Lemma prodrXr x I r P (F : I -> nat) :
   \prod_(i <- r | P i) x ^+ F i = x ^+ (\sum_(i <- r | P i) F i).
 Proof. by rewrite (big_morph _ (exprD _) (erefl _)). Qed.
 
+Lemma prodrM_comm {I : eqType} (r : seq I) (P : pred I) (x F : I -> R) :
+  (forall i j, P i -> P j -> comm (x i) (F j)) ->
+  \prod_(i <- r | P i) (x i * F i) =
+    \prod_(i <- r | P i) x i * \prod_(i <- r | P i) F i.
```
Comment (proux01) [inline mathcomp/algebra/ssralg.v:1154]: The names `x` and `F` are a bit strange, maybe `F1` and `F2`?

File: mathcomp/algebra/ssralg.v [hunk 8]
```diff
@@ -2560,6 +2582,19 @@ Lemma prodr_undup_exp_count (I : eqType) r (P : pred I) (F : I -> R) :
   \prod_(i <- undup r | P i) F i ^+ count_mem i r = \prod_(i <- r | P i) F i.
 Proof. exact: big_undup_iterop_count.  Qed.
 
+Lemma prodrM {I : eqType} (r : seq I) (P : pred I) (x F : I -> R) :
+  \prod_(i <- r | P i) (x i * F i) =
+    \prod_(i <- r | P i) x i * \prod_(i <- r | P i) F i.
+Proof. by rewrite prodrM_comm// => i j _ _; apply: mulrC. Qed.
```
Comment (proux01) [inline mathcomp/algebra/ssralg.v:2588]: Isn't that exactly `big_split`?

File: mathcomp/algebra/ssralg.v [hunk 9]
```diff
@@ -2560,6 +2582,19 @@ Lemma prodr_undup_exp_count (I : eqType) r (P : pred I) (F : I -> R) :
...
+
+Lemma prodrMl {I : finType} (A : pred I) (x : R) (F : I -> R) :
+  \prod_(i in A) (x * F i) = x ^+ #|A| * \prod_(i in A) F i.
+Proof. by rewrite prodrM ?prodr_const. Qed.
+
+Lemma prodrMr {I : finType} (A : pred I) (x : R) (F : I -> R) :
+  \prod_(i in A) (F i * x) = \prod_(i in A) F i * x ^+ #|A|.
+Proof. by rewrite prodrM ?prodr_const. Qed.
```
Comment (proux01) [inline mathcomp/algebra/ssralg.v:2596]: Same, we should probably have those two in bigop, and if we want a name here the proof could just be exact. Maybe we also want similar lemmas for addition?

File: mathcomp/algebra/ssralg.v (hunk 6 above)
Comment (CohenCyril) [reply mathcomp/algebra/ssralg.v:958]: It is used in Abel and code to be backported 
https://github.com/search?q=repo%3Amath-comp%2FAbel%20has_char0&type=code
So it could be removed here but I would be in favor of exporting it.

File: mathcomp/algebra/ssralg.v (hunk 7 above)
Comment (CohenCyril) [reply mathcomp/algebra/ssralg.v:1154]: or F and G

File: mathcomp/algebra/ssralg.v (hunk 9 above)
Comment (CohenCyril) [reply mathcomp/algebra/ssralg.v:2596]: Actually, maybe we can state them with iter (as in `big_const`), but indeed I think they should be reexported for sum and prod anyway.

Comment (CohenCyril) [reply mathcomp/algebra/ssralg.v:2596]: Maybe this change could be done after this PR (it's an orthogonal generalization)

File: mathcomp/algebra/poly.v (hunk 3 above)
Comment (Tragicus) [reply mathcomp/algebra/poly.v:1815]: I wondered exactly the same thing. @CohenCyril ?

Comment (CohenCyril) [reply mathcomp/algebra/poly.v:1815]: :shrug: some rebase gone wrong at some point in time?

**Comment by Tragicus** [comment]
Thank you for the review. I corrected everything (hopefully) except the one I answered to and the last one.

**Comment by proux01** [comment]
@Tragicu: could you push your changes on https://github.com/math-comp/math-comp/pull/1184 ? IIUC it has to be merged first.

**Comment by proux01** [comment]
I mean @Tragicus

**Comment by Tragicus** [comment]
> @Tragicu: could you push your changes on #1184 ? IIUC it has to be merged first.

It is already up to date. Is there a modification I missed?

**Comment by proux01** [comment]
Indeed, maybe some github glitch, I couldn't see it yesterday.
